Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O-:1][C:2](=[C+:3][C:4]([N:5]([C:6](=[O:7])[H:12])[H:9])([H:10])[H:11])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],15.289002674032794
[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C@@:3]1([H:12])[O:4][C@@:5]1([O:6][H:13])[H:11])[H:10])([H:7])([H:8])[H:9],83.76728440197371
[C:1]([C+:2]=[C:3]([O-:4])[H:10])([H:7])([H:8])[H:9].[N:5]#[N:6]>>[C:1]([c:2]1[c:3]([H:10])[o:4][n:5][n:6]1)([H:7])([H:8])[H:9],1.8585213832093963
[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[H:12])([H:7])([H:8])[H:9].[C:5]([O:6][H:13])[H:11],76.46523529896271
[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8]>>[N:1]([C:2]/[C:3](=[N:4]\[N:5]=[O:6])[H:9])([H:7])[H:8],104.083245517097
[C:1]([C:2]([C:3]([C:4]([O:5][C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:17].[O:5]=[C:6]([H:16])[H:18],59.5685693787029
[C:1]1([H:7])([H:9])[C@:2]([C:3]([O:4][H:13])([H:11])[H:12])([H:10])[C:5][C:6]1([H:8])[H:14]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],38.910275239834114
[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]1([H:7])[C@:2]([C:3]#[C:4][H:10])([H:9])[C:5][N:6]1[H:8],113.61115096413499
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[C:4]([H:12])([H:13])[C@:5]([H:14])([C:6]3([H:15])[H:16])[N:7]12>>[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[C:4]([H:12])([H:13])[C@:5]([H:14])([C:6]2([H:15])[H:16])[N:7]1[H:9])[H:8],62.166301955053214
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([N:2](/[C:3](=[N:4]\[H:11])[H:12])[H:10])([H:7])([H:8])[H:9],79.2444095092701
[C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:21])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:6]=[C:7]([H:19])[H:20]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],75.69261531552219
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2](=[C:3](/[O:4][H:13])[H:11])(\[C:5]([O:6][H:16])([H:14])[H:15])[H:10],96.49226657405359
[C:1]([C:2]([O:3][H:10])=[O:4])([H:7])([H:8])[H:9].[C:5]=[N:6][H:11]>>[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9],19.154527973521
[C:1]([H:8])([H:9])([H:10])[H:12].[N:2](=[C:3](/[C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])\[H:11]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],82.25262406548826
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([O:2][C:3]([C:4]([N:5]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],76.3133617861102
[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([N:6]([H:13])[H:14])[c:7]1[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])[C@:7]1([C+:5]([N-:4][H:12])[N:6]([H:13])[H:14])[H:15])([H:8])([H:9])[H:10],83.287177762341
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[H:13][H:14].[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5][C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],86.8877701108029
[O:1]1[C@@:3]2([H:8])[C-:2]=[N+:7]=[C:6]([H:11])[N:5]([H:10])[C@@:4]12[H:9]>>[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1,13.611912903282985
[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([C:5]#[C:6][H:14])=[C:4]([H:13])[C:3]1([H:10])[H:11],115.53837525250401
[C:1]([C:4]([C:3]([C-:2]=[O+:5][C:6](=[O:7])[H:15])([H:11])[H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],40.07399108750551
[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C+:1](=[C:2]=[C-:3][C:4]([N:5]([H:7])[H:10])([H:8])[H:9])[H:6],54.0860218402051
[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:17].[O:5]=[C:6]([H:16])[H:18]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],29.039763987470103
[C:1]([N+:2](=[C:3]([N:5]([C:6]([O-:4])=[N:7][H:14])[H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],80.5138902894124
[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C@:2]1([H:8])[C:3]([N+:6]#[C-:5])=[N:4]1)[H:7],75.9329099059985
